US08835632B2
6.10 8-[1-Cyano-4-(1,3-dimethyl-2,4,6-trioxo-tetrahydro-pyrimidin-5-ylidene)-but-2-enylidene]-10,10-dimethyl-8,10-dihydro-pyrido[1,2-a]indol-2-ylmethyl-ammonium iodide, 10
{8-[1-Cyano-4-(1,3-dimethyl-2,4,6-trioxo-tetrahydro-pyrimidin-5-ylidene)-but-2-enylidene]-10,10-dimethyl-8,10-dihydro-pyrido[1,2-a]indol-2-ylmethyl}-carbamic acid tert-butyl ester (20 g, 0.04 mol; Sigma-Aldrich) from previous step was placed in one-necked round bottom 1 L flask equipped with magnetic stir bar and dissolved in 150 mL of acetonitrile. The flask was closed with rubber septa and flashed with dry nitrogen. 10 g of iodotrimethylsilane were added to the flask with use of syringe, and reaction mixture was stirred at room temperature for 30 min. During addition of iodotrimethylsilane the color of the flask changed from deep blue to deep orange. 25 mL of methanol were added to the reaction mixture and its color become deep blue again. The volume of reaction mixture was reduced in about half using rotary evaporator. During this operation most of the methanol was removed from the reaction mixture and the product, which is insoluble in acetonitrile, precipitates. The product was filtered, washed with acetonitrile, dried and transferred to a 500-mL conical flask equipped with magnetic stirrer. 200 mL of dichloromethane were added to the flask, and flask content was stirred with mild heating (very gentle DCM boiling) for 10 min. The mixture was filtered when still hot, the dye was washed with DCM and dried. The yield was 10 g (50% of theory based on two steps).

reactant | {8-[1-Cyano-4-(1,3-dimethyl-2,4,6-trioxo-tetrahydro-pyrimidin-5-ylidene)-but-2-enylidene]-10,10-dimethyl-8,10-dihydro-pyrido[1,2-a]indol-2-ylmethyl}-carbamic acid tert-butyl ester | 0.04 mol, 20 g | C(C)(C)(C)OC(NCC=1C=C2C(C=3N(C2=CC1)C=CC(C3)=C(C=CC=C3C(N(C(N(C3=O)C)=O)C)=O)C#N)(C)C)=O | C31H33N5O5
reactant | iodotrimethylsilane | 10 g | I[Si](C)(C)C | C3H9ISi
reactant | methanol | 25 mL | CO | CH4O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 8-[1-Cyano-4-(1,3-dimethyl-2,4,6-trioxo-tetrahydro-pyrimidin-5-ylidene)-but-2-enylidene]-10,10-dimethyl-8,10-dihydro-pyrido[1,2-a]indol-2-ylmethyl-ammonium iodide | [I-].C(#N)C(C=CC=C1C(N(C(N(C1=O)C)=O)C)=O)=C1C=C2N(C3=CC=C(C=C3C2(C)C)C[NH3+])C=C1 | InChI=1S/C26H25N5O3.HI/c1-26(2)20-12-16(14-27)8-9-21(20)31-11-10-17(13-22(26)31)18(15-28)6-5-7-19-23(32)29(3)25(34)30(4)24(19)33;/h5-13H,14,27H2,1-4H3;1H
